US08664401B2
Step A) 2-(4-bromophenyl)-2H-1,2,3-triazole 1-oxide
Water (20 ml) was added to a flask containing glyoxal (2.0 g, 14 mmol). Hydroxylamine.HCl (958 mg, 13.8 mmol) and sodium carbonate (1.53 g, 14.5 mmol) were added in one portion to the glyoxal flask (CO2 evolution observed). The reaction mixture was stirred at RT for 20 minutes (reaction mixture turned yellow). Methanol (40 ml) was added to the reaction mixture and 4-bromophenyl hydrazine.HCl (3.1 g, 13.8 mmole) was added portionwise under ice cooling. The reaction mixture was then stirred at rt for 30 min. Copper (II) sulfate.hexahydrate (20 g, 78 mmol) was added to the reaction mixture. A water:pyridine (1:1) mixture (200 ml) was added then heated at 90° C. for 16 hours. The reaction mixture was cooled and adjusted to pH=3 with 6N HCl (approx 200 ml). The mixture was filtered through celite to remove insolubles. The celite was washed with additional ethyl acetate (1000 ml). The organic layer was separated and the product extracted additionally from the aqueous layer with EtOAc (3×250). The organic phases were combined, dried over potassium carbonate, filtered and concentrated to approximately half the volume. This material was then filtered through a silica pad (approx 6 in). Silica was washed with an additional 300 ml of ethyl acetate. The solvent was then concentrated in vacuo. The crude material was purified by chromatography on silica gel (4:1 heptane:EtOAc to 3:1 heptane:EtOAc). Concentrated fractions furnished a light tan solid (1.0 g, 30% TY). MS (LC/MS) m/z 240.1 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.47 (d, J=0.98 Hz, 1H) 7.65-7.69 (m, 2H) 7.73 (d, J=0.78 Hz, 1H) 7.86-7.90 (m, 2H)

reactant | glyoxal | 14 mmol, 2.0 g | C(=O)C=O | C2H2O2
reactant | Hydroxylamine | NO | H3NO
reactant | HCl | 13.8 mmol, 958 mg | Cl | ClH
reactant | sodium carbonate | 14.5 mmol, 1.53 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | CO2 | C(=O)=O | CO2
reactant | 4-bromophenyl hydrazine | BrC1=CC=C(C=C1)NN | C6H7BrN2
reactant | HCl | 13.8 mmole, 3.1 g | Cl | ClH
reactant | HCl | 6N, approx 200 ml | Cl | ClH
catalyst | Copper (II) sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water pyridine | O.N1=CC=CC=C1
solvent | Methanol | 40 ml | CO | CH4O
solvent | Water | 20 ml | O | H2O
product | 2-(4-bromophenyl)-2H-1,2,3-triazole 1-oxide | BrC1=CC=C(C=C1)N1[N+](=CC=N1)[O-] | C8H6BrN3O
